US07560569B2
In a similar manner to Example 4, (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 4-fluorobenzylamine (13.0 μL) were used to obtain (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(N-4-fluorobenzylamino)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (38.3 mg).

reactant | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)ON2N=NC1=C2C=CC=C1)CC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C30H31FN6O5
reactant | 4-fluorobenzylamine | 13.0 μL | FC1=CC=C(CN)C=C1 | C7H8FN
product | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(N-4-fluorobenzylamino)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 38.3 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)NCC2=CC=C(C=C2)F)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C31H34F2N4O4
